US07576115B2
1) Synthesis of 1-[5-(3,4-dichlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone
2-Oxopropanal methylhydrazone (1.525 mmol, 152.7 mg) synthesized in Reference Synthetic Example 1 and (3,4-dichlorophenyl)(oxo)acetaldehyde (1.525 mmol, 310 mg) synthesized in Reference Synthetic Example 3 were dissolved in acetic acid (10 mL) and stirred at 110° C. for 1.5 hours. Then, the solvent was evaporated, and the residue was dried by means of a vacuum pump, resolved by silica gel thin layer chromatography (n-hexane/AcOEt=3/2) and purified by silica gel thin layer chromatography (n-hexane/AcOEt=2/1) to give the desired product as a yellow solid (57.8 mg, yield 13%).

reactant | 2-Oxopropanal methylhydrazone | 1.525 mmol, 152.7 mg | CNN=CC(C)=O | C4H8N2O
reactant | (3,4-dichlorophenyl)(oxo)acetaldehyde | 1.525 mmol, 310 mg | ClC=1C=C(C=CC1Cl)C(C=O)=O | C8H4Cl2O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 1-[5-(3,4-dichlorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 57.8 mg, yield 13% | ClC=1C=C(C=CC1Cl)C1=C(C(=NN1C)C(C)=O)O | C12H10Cl2N2O2
